US09085583B2
2-Hydroxy-4-methoxy-6-methylnicotinonitrile (70 mg, 0.43 mmol) was dissolved in ethanol (10 mL) and warmed to 60° C. before it was treated with raney nickel (0.5 mL slurry in water) followed by addition of hydrazine monohydrate (2 mL). The resultant mixture was allowed to stir at 60° C. for 2 hours. The cooled reaction mixture was filtered through celite and rinsed with methanol. The filtrate was concentrated in vacuo to provide crude product which was purified by column chromatography (silica gel, dichloromethane/methanol=10:1) to afford 3-(aminomethyl)-4-methoxy-6-methylpyridin-2-ol (40 mg, 56%) as a white solid. LRMS (M+H+) m/z: calcd 168.09. found 168. HPLC purity (214 nm): 73%. 1H NMR (300 MHz, d6-DMSO): δ 6.04 (s, 1H), 3.77 (s, 3H), 3.42 (s, 2H), 2.15 (s, 3H).

reactant | 2-Hydroxy-4-methoxy-6-methylnicotinonitrile | 0.43 mmol, 70 mg | OC1=C(C#N)C(=CC(=N1)C)OC | C8H8N2O2
reactant | hydrazine monohydrate | 2 mL | O.NN
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | raney nickel | 0.5 mL | [Ni] | Ni
product | 3-(aminomethyl)-4-methoxy-6-methylpyridin-2-ol | 40 mg, 56% | NCC=1C(=NC(=CC1OC)C)O | C8H12N2O2
